US08557983B2
tert-butyl trans-4-((2-nitro-4-sulfamoylphenylamino)methyl)cyclohexylcarbamate
To a suspension of tert-butyl trans-4-(aminomethyl)cyclohexylcarbamate HCl (1.0 g) and 4-fluoro-3-nitrobenzenesulfonamide (0.83 g) in tetrahydrofuran (5 mL) was added diisopropylethylamine (1.98 mL) and the reaction stirred at room temperature for 1 hour. The reaction was diluted with ethyl acetate (75 mL) and washed with saturated ammonium chloride (50 mL), brine (50 mL), dried over magnesium sulfate, filtered, and concentrated. The resulting solid was triturated with dichloromethane (50 mL), filtered and dried to give the title compound.

reactant | tert-butyl trans-4-(aminomethyl)cyclohexylcarbamate HCl | 1.0 g | Cl.NC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O
reactant | 4-fluoro-3-nitrobenzenesulfonamide | 0.83 g | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | diisopropylethylamine | 1.98 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl trans-4-((2-nitro-4-sulfamoylphenylamino)methyl)cyclohexylcarbamate | [N+](=O)([O-])C1=C(C=CC(=C1)S(N)(=O)=O)NC[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C18H28N4O6S
